US05872118
A solution of (E)-2-(5-fluoro-1-indanylidene)acetic acid (0.97 g, 0.005 mol), 1-hydroxybenzotriazole (0.68 g, 0.005 mol, Fluka), cyclopropylamine (0.35 mL, 0.005 mol, Aldrich) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.96 g, 0.005 mol, Sigma), which was added last, in dimethylformamide (15 mL) was stirred at room temperature for 18 h, and the solution was concentrated in vacuo. The residue was dissolved in ethyl acetate, washed successively with a 5% aqueous solution of citric acid (3×50 mL), a saturated aqueous sodium bicarbonate solution (2×50 mL) and brine, and dried over sodium sulfate. The solution was concentrated in vacuo to give crude (E)-N-cyclopropyl-2-(5-fluoro-1-indanylidene)acetamide. Chromatography on Silica gel eluting with hexane: ethyl acetate (1:1) gave 0.52 g (44%) of (E)-N-cyclopropyl-2-(5-fluoro-1-indanylidene)acetamide as a white solid: m.p., 137°-138° C.;

reactant | (E)-2-(5-fluoro-1-indanylidene)acetic acid | 0.005 mol, 0.97 g | FC=1C=C2CC/C(/C2=CC1)=C\C(=O)O | C11H9FO2
reactant | 1-hydroxybenzotriazole | 0.005 mol, 0.68 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | cyclopropylamine | 0.005 mol, 0.35 mL | C1(CC1)N | C3H7N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.005 mol, 0.96 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (E)-N-cyclopropyl-2-(5-fluoro-1-indanylidene)acetamide | 0.52 g, 44% | C1(CC1)NC(/C=C/1\CCC2=CC(=CC=C12)F)=O | C14H14FNO
